US04950702
Preparation of Dipropylene Glycol Monomethyl Ether Benzoate
Dipropylene glycol monomethyl ether (444.6 grams; 3.0 mol), benzoic acid (373.7 grams; 3.06 mol), toluene (50 ml) and zirconium carbonate (2.0 grams) were placed into a 200 ml, 3-necked round bottom flask equipped with stirrer, thermometer, heating mantle, Dean Stark water trap, condenser and 10" Vigneux column. The reaction temperature was 180° C. at the beginning of the reaction and 217° C. after 6.5 hours with stirring. During that time, water (44 mls) was removed. The reaction was continued the next day for 2.5 hours at 224°-226° C. with the removal of water (56 mls.). The reaction mixture was washed at 95°-100° C. three times with sodium carbonate (15%) and then washed with water (400 ml). Then additional water (200 ml) was added and the product separated and dried at 125°, cooled to 100° C. and filtered. The desired product (694.6 grams) was obtained representing a yield of 91.8%. It assayed 99.5% with the following properties:

reactant | Dipropylene glycol monomethyl ether | 3.0 mol, 444.6 grams | COC(C)COC(C)CO | C7H16O3
reactant | benzoic acid | 3.06 mol, 373.7 grams | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zirconium carbonate | 2.0 grams | C([O-])([O-])=O.[Zr+4].C([O-])([O-])=O
solvent | water | O | H2O
product | Dipropylene Glycol Monomethyl Ether Benzoate | 694.6 grams, yield of 91.8% | C(C1=CC=CC=C1)(=O)OCC(OCC(C)OC)C | C14H20O4
